US07115653B2
Preparation of 2,5-difluorocinnamic Acid
Piperidine (2 mL, 20.2 mmol, 0.168 vol) was added to a stirred mixture of 2,5-difluorobenzaldehyde (12.07 g, 85.0 mmol, 1 wt) and malonic acid (18.28 g, 175.6 mmol, 1.51 wt) in pyridine (50 mL, 4.14 vol). The reaction mixture was heated under nitrogen and held at reflux (oil bath 100° C.) for 2 hours, effervescence was observed for about 90 minutes—initially vigorous then diminishing. The reaction mixture was then allowed to cool to 20 to 25° C. and poured into stirred 2 M hydrochloric acid (310 mL, 25.7 vol) (pH recorded as 1). The resulting precipitate was aged at 20 to 25° C. for 1 hour then filtered. The filter cake was washed with water (2×50 mL, 4.1 vol) then left to dry for a further 1 hour. The solid product was dried by dissolving it in TBME (250 mL, 20.7 vol), separating the phases and the water phase washed with TBME (100 mL, 8.3 vol). The TBME phases were combined, dried over magnesium sulphate (25 g, 2 wt), filtered and concentrated on a rotary evaporator to afford the product as a white solid (13.4 g, 85.7%).

reactant | Piperidine | 20.2 mmol, 2 mL | N1CCCCC1 | C5H11N
reactant | 2,5-difluorobenzaldehyde | 85.0 mmol, 12.07 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | malonic acid | 175.6 mmol, 18.28 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | hydrochloric acid | 2 M, 310 mL | Cl | ClH
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2,5-difluorocinnamic Acid | 13.4 g, 85.7% | FC1=C(C=CC(=O)O)C=C(C=C1)F | C9H6F2O2
